* EQUIVALENT CIRCUIT FOR VECTOR FITTED S-MATRIX
* Created using scikit-rf vectorFitting.py
*
.SUBCKT s_equivalent p1 p2
*
* Port network for port 1
V1 p1 s1 0
R1 s1 0 50.0
Gd1_1 0 s1 p1 0 0.019340893090642845
Fd1_1 0 s1 V1 0.9670446545321423
Gr1_re_1_1 0 s1 x1_re_a1 0 -517379592605.04205
Gr1_im_1_1 0 s1 x1_im_a1 0 663770686931.5831
Gr2_re_1_1 0 s1 x2_re_a1 0 -220432105328110.06
Gr2_im_1_1 0 s1 x2_im_a1 0 138262550633884.94
Gr3_re_1_1 0 s1 x3_re_a1 0 2993092944668975.0
Gr3_im_1_1 0 s1 x3_im_a1 0 -8949828747289948.0
Gr4_1_1 0 s1 x4_a1 0 -1.1307280061412047e+18
Gr5_re_1_1 0 s1 x5_re_a1 0 -1.6487686756093478e+18
Gr5_im_1_1 0 s1 x5_im_a1 0 1.8769919527200172e+18
Gr6_re_1_1 0 s1 x6_re_a1 0 6.966216599060566e+17
Gr6_im_1_1 0 s1 x6_im_a1 0 3.7349483943120814e+18
Gr7_re_1_1 0 s1 x7_re_a1 0 1.3393893066924132e+18
Gr7_im_1_1 0 s1 x7_im_a1 0 -5.136119517572526e+17
Gr8_re_1_1 0 s1 x8_re_a1 0 1.7534956147485862e+17
Gr8_im_1_1 0 s1 x8_im_a1 0 -5998177162149265.0
Gd1_2 0 s1 p2 0 -0.0013669495788583513
Fd1_2 0 s1 V2 -0.06834747894291757
Gr1_re_1_2 0 s1 x1_re_a2 0 396182202419.47296
Gr1_im_1_2 0 s1 x1_im_a2 0 -573930605518.1674
Gr2_re_1_2 0 s1 x2_re_a2 0 167969441626382.78
Gr2_im_1_2 0 s1 x2_im_a2 0 -132270028142518.52
Gr3_re_1_2 0 s1 x3_re_a2 0 -1378915699427331.0
Gr3_im_1_2 0 s1 x3_im_a2 0 7204235155614456.0
Gr4_1_2 0 s1 x4_a2 0 6.993744077625764e+17
Gr5_re_1_2 0 s1 x5_re_a2 0 6.465671015416273e+17
Gr5_im_1_2 0 s1 x5_im_a2 0 -1.282047794708388e+18
Gr6_re_1_2 0 s1 x6_re_a2 0 -2.1904228485419702e+18
Gr6_im_1_2 0 s1 x6_im_a2 0 -8.378142101368266e+17
Gr7_re_1_2 0 s1 x7_re_a2 0 1.59366208796141e+18
Gr7_im_1_2 0 s1 x7_im_a2 0 1.810141209614257e+18
Gr8_re_1_2 0 s1 x8_re_a2 0 -3.98282993359447e+17
Gr8_im_1_2 0 s1 x8_im_a2 0 2.5080100067659206e+17
*
* State networks driven by port 1
Cx1_re_a1 x1_re_a1 0 1.0
Gx1_re_a1 0 x1_re_a1 p1 0 0.1414213562373095
Fx1_re_a1 0 x1_re_a1 V1 7.0710678118654755
Rp1_re_re_a1 0 x1_re_a1 1.4098333538206767e-10
Gp1_re_im_a1 0 x1_re_a1 x1_im_a1 0 30946481184.497707
Cx1_im_a1 x1_im_a1 0 1.0
Gp1_im_re_a1 0 x1_im_a1 x1_re_a1 0 -30946481184.497707
Rp1_im_im_a1 0 x1_im_a1 1.4098333538206767e-10
Cx2_re_a1 x2_re_a1 0 1.0
Gx2_re_a1 0 x2_re_a1 p1 0 0.1414213562373095
Fx2_re_a1 0 x2_re_a1 V1 7.0710678118654755
Rp2_re_re_a1 0 x2_re_a1 2.117362973165225e-10
Gp2_re_im_a1 0 x2_re_a1 x2_im_a1 0 15964698315.226816
Cx2_im_a1 x2_im_a1 0 1.0
Gp2_im_re_a1 0 x2_im_a1 x2_re_a1 0 -15964698315.226816
Rp2_im_im_a1 0 x2_im_a1 2.117362973165225e-10
Cx3_re_a1 x3_re_a1 0 1.0
Gx3_re_a1 0 x3_re_a1 p1 0 0.1414213562373095
Fx3_re_a1 0 x3_re_a1 V1 7.0710678118654755
Rp3_re_re_a1 0 x3_re_a1 1.4143517464844148e-10
Gp3_re_im_a1 0 x3_re_a1 x3_im_a1 0 9863684531.480305
Cx3_im_a1 x3_im_a1 0 1.0
Gp3_im_re_a1 0 x3_im_a1 x3_re_a1 0 -9863684531.480305
Rp3_im_im_a1 0 x3_im_a1 1.4143517464844148e-10
Cx4_a1 x4_a1 0 1.0
Gx4_a1 0 x4_a1 p1 0 0.07071067811865475
Fx4_a1 0 x4_a1 V1 3.5355339059327378
Rp4_a1 0 x4_a1 1.442455919890434e-10
Cx5_re_a1 x5_re_a1 0 1.0
Gx5_re_a1 0 x5_re_a1 p1 0 0.1414213562373095
Fx5_re_a1 0 x5_re_a1 V1 7.0710678118654755
Rp5_re_re_a1 0 x5_re_a1 2.2761815307854695e-10
Gp5_re_im_a1 0 x5_re_a1 x5_im_a1 0 2136641576.596138
Cx5_im_a1 x5_im_a1 0 1.0
Gp5_im_re_a1 0 x5_im_a1 x5_re_a1 0 -2136641576.596138
Rp5_im_im_a1 0 x5_im_a1 2.2761815307854695e-10
Cx6_re_a1 x6_re_a1 0 1.0
Gx6_re_a1 0 x6_re_a1 p1 0 0.1414213562373095
Fx6_re_a1 0 x6_re_a1 V1 7.0710678118654755
Rp6_re_re_a1 0 x6_re_a1 6.26811143287583e-10
Gp6_re_im_a1 0 x6_re_a1 x6_im_a1 0 1499968653.2139807
Cx6_im_a1 x6_im_a1 0 1.0
Gp6_im_re_a1 0 x6_im_a1 x6_re_a1 0 -1499968653.2139807
Rp6_im_im_a1 0 x6_im_a1 6.26811143287583e-10
Cx7_re_a1 x7_re_a1 0 1.0
Gx7_re_a1 0 x7_re_a1 p1 0 0.1414213562373095
Fx7_re_a1 0 x7_re_a1 V1 7.0710678118654755
Rp7_re_re_a1 0 x7_re_a1 1.639849727198975e-09
Gp7_re_im_a1 0 x7_re_a1 x7_im_a1 0 674120577.5772569
Cx7_im_a1 x7_im_a1 0 1.0
Gp7_im_re_a1 0 x7_im_a1 x7_re_a1 0 -674120577.5772569
Rp7_im_im_a1 0 x7_im_a1 1.639849727198975e-09
Cx8_re_a1 x8_re_a1 0 1.0
Gx8_re_a1 0 x8_re_a1 p1 0 0.1414213562373095
Fx8_re_a1 0 x8_re_a1 V1 7.0710678118654755
Rp8_re_re_a1 0 x8_re_a1 4.927984348054342e-09
Gp8_re_im_a1 0 x8_re_a1 x8_im_a1 0 217112690.6440405
Cx8_im_a1 x8_im_a1 0 1.0
Gp8_im_re_a1 0 x8_im_a1 x8_re_a1 0 -217112690.6440405
Rp8_im_im_a1 0 x8_im_a1 4.927984348054342e-09
*
* Port network for port 2
V2 p2 s2 0
R2 s2 0 50.0
Gd2_1 0 s2 p1 0 -0.0013669495788583513
Fd2_1 0 s2 V1 -0.06834747894291757
Gr1_re_2_1 0 s2 x1_re_a1 0 396182583998.4621
Gr1_im_2_1 0 s2 x1_im_a1 0 -573930453351.3239
Gr2_re_2_1 0 s2 x2_re_a1 0 167969628631237.62
Gr2_im_2_1 0 s2 x2_im_a1 0 -132269868207832.98
Gr3_re_2_1 0 s2 x3_re_a1 0 -1378927536518494.2
Gr3_im_2_1 0 s2 x3_im_a1 0 7204238870241615.0
Gr4_2_1 0 s2 x4_a1 0 6.993770559184425e+17
Gr5_re_2_1 0 s2 x5_re_a1 0 6.465748109602487e+17
Gr5_im_2_1 0 s2 x5_im_a1 0 -1.2820509403950676e+18
Gr6_re_2_1 0 s2 x6_re_a1 0 -2.190406329776252e+18
Gr6_im_2_1 0 s2 x6_im_a1 0 -8.378381419519164e+17
Gr7_re_2_1 0 s2 x7_re_a1 0 1.5936339685534203e+18
Gr7_im_2_1 0 s2 x7_im_a1 0 1.8101270183572767e+18
Gr8_re_2_1 0 s2 x8_re_a1 0 -3.982804145640251e+17
Gr8_im_2_1 0 s2 x8_im_a1 0 2.5079846609084438e+17
Gd2_2 0 s2 p2 0 0.018940263636647966
Fd2_2 0 s2 V2 0.9470131818323984
Gr1_re_2_2 0 s2 x1_re_a2 0 -334132849035.3167
Gr1_im_2_2 0 s2 x1_im_a2 0 528080974927.8386
Gr2_re_2_2 0 s2 x2_re_a2 0 -138621390341281.73
Gr2_im_2_2 0 s2 x2_im_a2 0 129421244363304.95
Gr3_re_2_2 0 s2 x3_re_a2 0 464735445470783.06
Gr3_im_2_2 0 s2 x3_im_a2 0 -6224428518830463.0
Gr4_2_2 0 s2 x4_a2 0 -4.5456630731402534e+17
Gr5_re_2_2 0 s2 x5_re_a2 0 -7.698163849025157e+16
Gr5_im_2_2 0 s2 x5_im_a2 0 9.447190390876314e+17
Gr6_re_2_2 0 s2 x6_re_a2 0 3.0413131784849976e+18
Gr6_im_2_2 0 s2 x6_im_a2 0 -8.097275703161568e+17
Gr7_re_2_2 0 s2 x7_re_a2 0 -3.262582909567134e+18
Gr7_im_2_2 0 s2 x7_im_a2 0 -2.548146046036339e+18
Gr8_re_2_2 0 s2 x8_re_a2 0 5.2520873640344096e+17
Gr8_im_2_2 0 s2 x8_im_a2 0 -3.90127225571065e+17
*
* State networks driven by port 2
Cx1_re_a2 x1_re_a2 0 1.0
Gx1_re_a2 0 x1_re_a2 p2 0 0.1414213562373095
Fx1_re_a2 0 x1_re_a2 V2 7.0710678118654755
Rp1_re_re_a2 0 x1_re_a2 1.4098333538206767e-10
Gp1_re_im_a2 0 x1_re_a2 x1_im_a2 0 30946481184.497707
Cx1_im_a2 x1_im_a2 0 1.0
Gp1_im_re_a2 0 x1_im_a2 x1_re_a2 0 -30946481184.497707
Rp1_im_im_a2 0 x1_im_a2 1.4098333538206767e-10
Cx2_re_a2 x2_re_a2 0 1.0
Gx2_re_a2 0 x2_re_a2 p2 0 0.1414213562373095
Fx2_re_a2 0 x2_re_a2 V2 7.0710678118654755
Rp2_re_re_a2 0 x2_re_a2 2.117362973165225e-10
Gp2_re_im_a2 0 x2_re_a2 x2_im_a2 0 15964698315.226816
Cx2_im_a2 x2_im_a2 0 1.0
Gp2_im_re_a2 0 x2_im_a2 x2_re_a2 0 -15964698315.226816
Rp2_im_im_a2 0 x2_im_a2 2.117362973165225e-10
Cx3_re_a2 x3_re_a2 0 1.0
Gx3_re_a2 0 x3_re_a2 p2 0 0.1414213562373095
Fx3_re_a2 0 x3_re_a2 V2 7.0710678118654755
Rp3_re_re_a2 0 x3_re_a2 1.4143517464844148e-10
Gp3_re_im_a2 0 x3_re_a2 x3_im_a2 0 9863684531.480305
Cx3_im_a2 x3_im_a2 0 1.0
Gp3_im_re_a2 0 x3_im_a2 x3_re_a2 0 -9863684531.480305
Rp3_im_im_a2 0 x3_im_a2 1.4143517464844148e-10
Cx4_a2 x4_a2 0 1.0
Gx4_a2 0 x4_a2 p2 0 0.07071067811865475
Fx4_a2 0 x4_a2 V2 3.5355339059327378
Rp4_a2 0 x4_a2 1.442455919890434e-10
Cx5_re_a2 x5_re_a2 0 1.0
Gx5_re_a2 0 x5_re_a2 p2 0 0.1414213562373095
Fx5_re_a2 0 x5_re_a2 V2 7.0710678118654755
Rp5_re_re_a2 0 x5_re_a2 2.2761815307854695e-10
Gp5_re_im_a2 0 x5_re_a2 x5_im_a2 0 2136641576.596138
Cx5_im_a2 x5_im_a2 0 1.0
Gp5_im_re_a2 0 x5_im_a2 x5_re_a2 0 -2136641576.596138
Rp5_im_im_a2 0 x5_im_a2 2.2761815307854695e-10
Cx6_re_a2 x6_re_a2 0 1.0
Gx6_re_a2 0 x6_re_a2 p2 0 0.1414213562373095
Fx6_re_a2 0 x6_re_a2 V2 7.0710678118654755
Rp6_re_re_a2 0 x6_re_a2 6.26811143287583e-10
Gp6_re_im_a2 0 x6_re_a2 x6_im_a2 0 1499968653.2139807
Cx6_im_a2 x6_im_a2 0 1.0
Gp6_im_re_a2 0 x6_im_a2 x6_re_a2 0 -1499968653.2139807
Rp6_im_im_a2 0 x6_im_a2 6.26811143287583e-10
Cx7_re_a2 x7_re_a2 0 1.0
Gx7_re_a2 0 x7_re_a2 p2 0 0.1414213562373095
Fx7_re_a2 0 x7_re_a2 V2 7.0710678118654755
Rp7_re_re_a2 0 x7_re_a2 1.639849727198975e-09
Gp7_re_im_a2 0 x7_re_a2 x7_im_a2 0 674120577.5772569
Cx7_im_a2 x7_im_a2 0 1.0
Gp7_im_re_a2 0 x7_im_a2 x7_re_a2 0 -674120577.5772569
Rp7_im_im_a2 0 x7_im_a2 1.639849727198975e-09
Cx8_re_a2 x8_re_a2 0 1.0
Gx8_re_a2 0 x8_re_a2 p2 0 0.1414213562373095
Fx8_re_a2 0 x8_re_a2 V2 7.0710678118654755
Rp8_re_re_a2 0 x8_re_a2 4.927984348054342e-09
Gp8_re_im_a2 0 x8_re_a2 x8_im_a2 0 217112690.6440405
Cx8_im_a2 x8_im_a2 0 1.0
Gp8_im_re_a2 0 x8_im_a2 x8_re_a2 0 -217112690.6440405
Rp8_im_im_a2 0 x8_im_a2 4.927984348054342e-09
.ENDS s_equivalent
